US04895840
2-Pyridineethanamine, hydrochloride [1:2]
Concentrated hydrochloric acid (16.50 ml, 0.20 mole) was poured slowly into a stirred solution of 2-(2-aminoethyl)pyridine (12.22 g, 0.10 mole) in 200 ml absolute ethanol. The mixture was concentrated to dryness and the residual solid recrystallized from 600 ml absolute ethanol. The light orange-pink solid was collected and yielded 8.48 g; mp 187°-189° C. (lit1 186°-189° C.).

reactant | hydrochloric acid | 0.20 mole, 16.50 ml | Cl | ClH
reactant | 2-(2-aminoethyl)pyridine | 0.10 mole, 12.22 g | NCCC1=NC=CC=C1 | C7H10N2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-Pyridineethanamine, hydrochloride | Cl.N1=C(C=CC=C1)CCN | InChI=1S/C7H10N2.ClH/c8-5-4-7-3-1-2-6-9-7;/h1-3,6H,4-5,8H2;1H
